* source CLOSED LOOP
X_OPwov2A         0 N00446 V12+ V12- N00519 TL074/301/TI
R_Rvd13         0 N00593  10k  
X_Q3         0 N00099 VM1 TIP117
C_CB2         N54020 N28415  10n  
R_Rcom1         N00493 VSS  1k  
R_Rvd14         0 N00566  10k  
X_U1A1ECmC         N00566 N32293 V12+ V12- N32293 TL074/301/TI
R_R1         N00357 N00429  33k  
R_Rpi2         VIREFA N92276  5.6k  
C_Cfilter         N00519 VT  1n  
R_Rc1         N00099 VC  1k  
X_D13         0 VM1 D120NQ045 
R_Rc2         N00653 VC  1k  
Q_QB2         N00653 N28415 0 QBC337-16/PLP 
V_V1         VC 0 10
C_Cpi1         N92398 N92324  100n  
X_D12         N00685 VC D120NQ045 
R_Rfilter         0 VT  100k  
X_Q1         VC N00099 VM1 TIP112
X_Not3A         N00493 N54020 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C         N00446 N00519  10n  
R_RB1         N00493 N00422  10k  
X_U1A1A         N00806 N00839 V12+ V12- VMOP1 TL074/301/TI
X_U1A1D         N00593 N32389 V12+ V12- N32389 TL074/301/TI
V_V4         V12+ 0 12
R_Rop14         N00839 VMOP1  150k  
R_Rop12         N00806 0  150k  
R_Rvd11         N00593 VM2  27k  
C_CB1         N00493 N00422  10n  
L_LCoilA         VM2 N36449  45mH  
V_V5         V12- 0 -12
R_Rpi4         N922301 N92276  6.6k  
X_Q4         0 N00653 N00685 TIP117
X_OPwov1A         N00357 0 V12+ V12- N00429 TL074/301/TI
X_Upi2A         N92200 N92276 V12+ V12- N92324 TL074/301/TI
R_Rop11         N32293 N00806  1k  
R_Rvd12         N00566 VM1  27k  
V_V2         VSS 0 5
X_Q2         VC N00653 N00685 TIP112
R_R         N00429 N00446  5.6k  
R_Rop13         N32389 N00839  1k  
R_RCoilA         N36449 N00685  10  
C_Cpi2         0 N922301  100n  
X_D11         VM1 VC D120NQ045 
R_R2         N00357 N00519  10k  
V_V7         VIREFA 0  
+PULSE 2.1 -2.1 0 1us 1us 10ms 20ms
R_RSenseA         VM1 VM2  0.22  
X_D14         0 N00685 D120NQ045 
Q_QB1         N00099 N00422 0 QBC337/PLP 
X_U5         N92324 VT V12+ V12- N00493 0 LM311
R_Rpi1         VMOP1 N92200  5.6k  
R_RB2         N54020 N28415  10k  
R_Rpi3         N92200 N92398  6.6k  
