* source D-FLIP
V_V4         N45274 0  
+PULSE 0 3.9 0 1u 1u 20ms 40ms
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N04872 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +50ms 0
+  +50ms 1
+ ENDREPEAT
X_U3A         VCC N07339 N07265 VCC N10025 N07339 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R35         V-12 N45613  8.2k  
V_V3         V-12 0 -12
R_R15         N45274 N45613  1.8k  
R_R2         N08578 N442430  1.8Meg  
R_R3         N10025 N442710  1.8Meg  
V_V2         VCC 0 5
R_R4         V-12 N442430  8.2Meg  
X_U2A         VCC N05075 N04872 VCC N08578 N05075 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R5         V-12 N442710  8.2Meg  
X_UPSA         N04872 N07265 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
