* source 5551
V_V2         VSS 0 5
R_Rsr         N09769 VSS  100k  
R_Rdc         N00548 V15  1k  
C_Cop1         N039952 N06430  470.5u  
R_Rdt         N00383 N00548  51k  
C_Cop2         0 N06446  48u  
C_Cgt         0 N00383  1n  
C_Rcg         0 N01335  1n  
X_U3         0 N00383 N039952 N09769 N01335 N00383 N00548 V15 555B
V_V1         V15 0 16
R_R1         0 N06446  1k  
X_Dop2         N06446 N06430 D120NQ045 
X_Dop1         N06430 0 D120NQ045 
