* source V2FC
C_C         N00402 N00377  1u  
R_Rd         N00460 N00402  470  
R_R         N00942 N00402  2k  
R_R1         N00520 N00607  4.7k  
D_D1         N00460 N00607 D1N3911 
R_R2         N00377 N00520  2k  
D_D3         0 N09163 D1N4733 
V_Vin         N00942 0 10
V_V2         VCC+ 0 12
X_U3A         0 N00402 V+12 V-12 N00377 TL074/301/TI
R_R3         N00607 N09163  2.2k  
V_V3         0 VCC- 12
X_U4A         N00520 0 V+12 V-12 N00607 TL074/301/TI
